US08071584B2
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(hexahydro-1H-azepin-1-ylmethyl)-3-thienyl]-1H-indole-7-carboxamide
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide (40 mg, 0.093 mmol) was dissolved in dimethyl sulfoxide (1.5 mL) and put in a microwave vial. The mixture was stirred and acetic acid (0.056 mg, 0.929 μmol) was added, hexahydro-1H-azepine (0.453 mL, 4.02 mmol) was added. The mixture was left stirring 30 minutes at 23° C., before adding sodium triacetoxyborohydride polymer bound (399 mg, 0.929 mmol). The vial was sealed and the mixture heated in a microwave 10 minutes at 100° C. The sodium triacetoxyborohydride polymer bound was removed by filtration, and the mixture was run through prep HPLC from 10% acetonitrile containing 0.1% TFA to 50% acetonitrile containing 0.1% TFA in 25 minutes. The desired fractions were concentrated, giving 12 mg of the title compound.

reactant | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(5-formyl-3-thienyl)-1H-indole-7-carboxamide | 0.093 mmol, 40 mg | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)C=O)C(=O)N)(=O)=O)C | C21H22N2O4S2
reactant | hexahydro-1H-azepine | 4.02 mmol, 0.453 mL | N1CCCCCC1 | C6H13N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dimethyl sulfoxide | 1.5 mL | CS(=O)C | C2H6OS
catalyst | acetic acid | 0.929 μmol, 0.056 mg | C(C)(=O)O | C2H4O2
product | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-[5-(hexahydro-1H-azepin-1-ylmethyl)-3-thienyl]-1H-indole-7-carboxamide | 12 mg | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=CSC(=C1)CN1CCCCCC1)C(=O)N)(=O)=O)C | C27H35N3O3S2
